US04880808
A mixture of 1.86 parts of 1,1'-(5-bromo-1-penten-1-ylidene)bis-[4-fluorobenzene], 1.50 parts of N-(2-acetylphenyl)-3-(aminocarbonyl)-1-piperazineacetamide, 0.80 parts of sodium carbonate and 90 parts of N,N-dimethylformamide was stirred for 20 hours at 80° C. The reaction mixture was evaporated and the residue was taken up in water. The product was extracted twice with dichloromethane. The combined extracts were washed with water, dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (97:3 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from 2,2'-oxybispropane, yielding 2.07 parts (73.9%) of N-(2-acetylphenyl)-3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)-4-pentenyl]-1-piperazineacetamide; mp. 110.7° C. (compound 18).

reactant | 1,1'-(5-bromo-1-penten-1-ylidene)bis-[4-fluorobenzene] | BrCCCC=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C17H15BrF2
reactant | N-(2-acetylphenyl)-3-(aminocarbonyl)-1-piperazineacetamide | C(C)(=O)C1=C(C=CC=C1)NC(CN1CC(NCC1)C(=O)N)=O | C15H20N4O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | N-(2-acetylphenyl)-3-(aminocarbonyl)-4-[5,5-bis(4-fluorophenyl)-4-pentenyl]-1-piperazineacetamide | 73.9% | C(C)(=O)C1=C(C=CC=C1)NC(CN1CC(N(CC1)CCCC=C(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)C(=O)N)=O | C32H34F2N4O3
